US07160888B2
Synthesis of 7-{4-[4-(2,3-Dichloro-phenyl)-piperazin-1-yl]-butoxy}-3,4-dihydro-1H-[1,8]naphthyridin-2-one
In the final step of the synthesis reaction, the title compound, 7-{4-[4-(2,3-Dichloro-phenyl)-piperazin-1-yl]-butoxy}-3,4-dihydro-1H-[1,8]naphthyridin-2-one was produced as follows: To a solution of 4-(7-oxo-5,6,7,8-tetrahydro-[1,8]naphthyridin-2-yloxy)-butyraldehyde (1.06 g, crude from previous reaction) was added a solution of 2,3-dichlorophenylpiperazine (1.02 g, 4.40 mmol) in dichloroethane (5 mL). The solution was stirred for 15 min and NaBH(OAc)3 (1.21 g, 5.72 mmol, 1.3 equiv) was added as a powder. The reaction was stirred at room temperature for 3 h and quenched with saturated NaHCO3 and H2O. The mixture was extracted with EtOAc. The organic layer was washed with saturated NaHCO3, H2O and brine, dried over Na2SO4 and concentrated to give a yellow foam/oil. Purification by liquid chromatography (4% MeOH/CH2Cl2) afforded the title compound as a white foam (1.20 g, 2.67 mmol, 61% over 2 steps). The HCl salt was formed by dissolving the title compound (800 mg, 1.78 mmol) in Et2O (20 mL) and CH2Cl2 (2 mL) followed by the addition of 1N HCl in Et2O (1.75 mL). The resulting white precipitate was collected by filtration, washed with Et2O and dried to give a white solid (801 mg). MS: APCI: M+1: 449.1 (Exact Mass: 448.14).

reactant | 4-(7-oxo-5,6,7,8-tetrahydro-[1,8]naphthyridin-2-yloxy)-butyraldehyde | 1.06 g | O=C1CCC=2C=CC(=NC2N1)OCCCC=O | C12H14N2O3
reactant | 2,3-dichlorophenylpiperazine | 4.40 mmol, 1.02 g | ClC1=C(C=CC=C1Cl)N1CCNCC1 | C10H12Cl2N2
reactant | NaBH(OAc)3 | 5.72 mmol, 1.21 g, 1.3 equiv | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | dichloroethane | 5 mL | ClC(C)Cl | C2H4Cl2
product | 7-{4-[4-(2,3-Dichloro-phenyl)-piperazin-1-yl]-butoxy}-3,4-dihydro-1H-[1,8]naphthyridin-2-one | 2.67 mmol, 1.20 g, 61% | ClC1=C(C=CC=C1Cl)N1CCN(CC1)CCCCOC1=CC=C2CCC(NC2=N1)=O | C22H26Cl2N4O2
